US03968231
7-Fluoro-4-(p-fluorophenyl)-2-[4-(p-fluorophenyl)-4-hydroxypentyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole hydrochloride ##EQU8##
A methyl Grignard reagent prepared from 852 mg. (6 m moles) of methyl iodide and 144 mg. (6 m mole) of magnesium in 40 ml. of diethyl ether is divided into equal portions. To one-half is added portionwise 500 mg. (1.1 m moles) of 7-fluoro-4-(p-fluorophenyl)-2-[3-(p-fluorobenzoyl)propyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole hydrochloride in 20 ml. of tetrahydrofuran, and the mixture allowed to stir for 1 hour. To the mixture is then added the other half of the Grignard solution, and stirring maintained for 30 min. The mix is poured into ice and water and extracted with ether. The combined ether extracts are dried over magnesium sulfate, concentrated to dryness, and the residue chromatographed on 20 g. of silica gel using 3:1 diethyl ether-ethanol as the eluate, each collecting fractions being 3 ml. Fractions 10-27 are combined and converted to the hydrochloride salt, 180 mg.

reactant | methyl iodide | CI | CH3I
reactant | magnesium | [Mg] | Mg
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | 7-fluoro-4-(p-fluorophenyl)-2-[3-(p-fluorobenzoyl)propyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole hydrochloride | Cl.FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CN(C3)CCCC(C3=CC=C(C=C3)F)=O
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-Fluoro-4-(p-fluorophenyl)-2-[4-(p-fluorophenyl)-4-hydroxypentyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole hydrochloride | Cl.FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CN(C3)CCCC(C)(O)C3=CC=C(C=C3)F | InChI=1S/C27H25F3N2O.ClH/c1-27(33,18-3-5-19(28)6-4-18)13-2-14-31-16-24-23-15-21(30)9-12-25(23)32(26(24)17-31)22-10-7-20(29)8-11-22;/h3-12,15,33H,2,13-14,16-17H2,1H3;1H
